US07148229B2
Prepared from 5,6-diamino-1-butyl-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione (30.6 mg, 0.1 mmol) and [4-(pyridin-3-ylsulfamoyl)-phenyl]-acetic acid. 4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-N-pyridin-3-yl-benzenesulfonamide was obtained as a colorless solid; 1H NMR (DMSO-d6, 300 MHz) δH 13.50 (s, 1H), 10.54 (s, 1H), 8.23 (d, J=14.3 Hz, 2H), 7.71 (d, J=8.1 Hz, 2H), 7.55–7.40 (m, 3H), 7.35–6.95 (m, 5H), 5.08 (s, 2H), 4.13 (s, 2H), 3.92 (t, J=7.3 Hz, 2H), 1.59 (t, J=7.1 Hz, 2H), 1.23 (q, J=7.3 Hz, 2H), 0.83 (t, J=7.5 Hz, 3H); FAB-HRMS m/e calculated for C28H27FN6O4S (M+H)+ 563.1877, found 563.1860.

reactant | 5,6-diamino-1-butyl-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione | 0.1 mmol, 30.6 mg | NC=1C(N(C(N(C1N)CCCC)=O)CC1=C(C=CC=C1)F)=O | C15H19FN4O2
reactant | [4-(pyridin-3-ylsulfamoyl)-phenyl]-acetic acid | N1=CC(=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C13H12N2O4S
product | 4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-N-pyridin-3-yl-benzenesulfonamide | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)S(=O)(=O)NC=1C=NC=CC1)=O)CC1=C(C=CC=C1)F)=O | C28H27FN6O4S
